US09062028B2
Step A. 4-Bromo-2,3-dihydro-1H-inden-1-one oxime
To a solution of 4-bromo-2,3-dihydro-1H-inden-1-one (3.00 g, 14.21 mmol) in MeOH (40 mL) was added hydroxylamine hydrochloride (3.95 g, 56.9 mmol). The resulting mixture was refluxed for 1 h and concentrated in vacuo. The resulting residue was partitioned between DCM and 50% saturated NaHCO3, and stirred vigorously for 20 min. The organic layer was separated, dried over anhydrous Na2SO4, filtered and concentrated to afford the title compound (3.18 g, 99% yield) as a pale yellow solid. LCMS, [M+H]+=226.0.

reactant | 4-bromo-2,3-dihydro-1H-inden-1-one | 14.21 mmol, 3.00 g | BrC1=C2CCC(C2=CC=C1)=O | C9H7BrO
reactant | hydroxylamine hydrochloride | 56.9 mmol, 3.95 g | Cl.NO
solvent | MeOH | 40 mL | CO | CH4O
product | 4-Bromo-2,3-dihydro-1H-inden-1-one oxime | 3.18 g, 99% yield | BrC1=C2CCC(C2=CC=C1)=NO | C9H8BrNO
